US05696263
(S)-2-O-(Diisopropyl phosphonomethyl)-3-butene-1,2-diol
(S)-2-O-(Diisopropyl phosphonomethyl)-1-O-methoxymethyl-3-butene-1,2-diol (3.45 g, 11.12 mmol) and camphorsulfonic acid (0.2 g, 0.8 mmol) were mixed in 45 mL of methanol. The resulting solution was heated at reflux for 5 hours. The solvent was evaporated, and the residue was purified by flash chromatography (ethyl acetate:petroleum ether=1:1 to 1:0 then ehtyl acetate:methanol 20:1) to give 2.73 g (92%) of the title compound as an oil.

reactant | (S)-2-O-(Diisopropyl phosphonomethyl)-1-O-methoxymethyl-3-butene-1,2-diol | 11.12 mmol, 3.45 g | C(C)(C)C(O[C@H](COCOC)C=C)(P(=O)(O)O)C(C)C | C13H27O6P
reactant | camphorsulfonic acid | 0.8 mmol, 0.2 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | methanol | 45 mL | CO | CH4O
product | (S)-2-O-(Diisopropyl phosphonomethyl)-3-butene-1,2-diol | 2.73 g, 92% | C(C)(C)C(O[C@H](CO)C=C)(P(=O)(O)O)C(C)C | C11H23O5P
